US04584293
1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4,-tetrahydronaphth-2-yl)-amino]-propane
A mixture of 2-methylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene (1.72 g, 0.0078 mol), triethylamine (1.09 ml, 0.0078 mol) and 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane (2.3 g, 0.0078 mol) is heated to a reaction temperature of 90° C. in steps within one hour and kept at this temperature for 2 hours. The initial suspension slowly changes into a clear solution and begins to precipitate in a jelly-like manner after about 30 minutes. The cooled reaction mixture is dissolved in 0.5M sodium hydroxide solution/ethyl acetate, the organic phase is washed with water, dried over magnesium sulphate, concentrated by evaporation in vacuo and purified over alumina (300 g), neutral, activity II, with methylene chloride and then with increasing quantities of ethanol (up to 20%). The hydrochloride is precipitated from a solution in acetone using ethereal hydrochloric acid. Yield: 1.39 g Mp: >125° C. (Decomp.).

reactant | 2-methylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene | 0.0078 mol, 1.72 g | CNC1CC2=CC(=C(C=C2CC1)OC)OC | C13H19NO2
reactant | triethylamine | 0.0078 mol, 1.09 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | 0.0078 mol, 2.3 g | COC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1OC | C15H18ClNO3
solvent | sodium hydroxide | 0.5M | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[7,8-Dimethoxy-1,3-dihydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(6,7-dimethoxy-1,2,3,4,-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(C=C2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)C)=O)C=C1OC | C28H36N2O5
